US07297697B2
{4-{4-[Bis-(4-fluorophenyl)methyl]-piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid ethyl ester dihydrochloride, (Ig)
To a stirred solution of {4-{4-[bis-(4-fluorophenyl)methyl]-piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid (1.0 g, 0.0024 mol) in ethanol (20 ml), is added a solution of anhydrous ethanolic HCl till pH is 1-2. The solution is refluxed for around 2 hrs, cooled to 25-30° C. and stirred for 4 hrs. The crystallized solid is filtered, washed with ethanol (2×5 ml), and dried in oven at 60-65° C. to get the product.

reactant | {4-{4-[bis-(4-fluorophenyl)methyl]-piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid | 0.0024 mol, 1.0 g | FC1=CC=C(C=C1)C(N1CCN(CC1)C\C=C/COCC(=O)O)C1=CC=C(C=C1)F | C23H26F2N2O3
reactant | HCl | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | {4-{4-[Bis-(4-fluorophenyl)methyl]-piperazin-1-yl}-(Z)-but-2-enyloxy}acetic acid ethyl ester dihydrochloride | Cl.Cl.C(C)OC(COC\C=C/CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | InChI=1S/C25H30F2N2O3.2ClH/c1-2-32-24(30)19-31-18-4-3-13-28-14-16-29(17-15-28)25(20-5-9-22(26)10-6-20)21-7-11-23(27)12-8-21;;/h3-12,25H,2,13-19H2,1H3;2*1H/b4-3-;;
